Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Joint pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with h/o NIDDM, DJD, recurrent UTIs presented 
to the ED with complaints of R knee pain and L wrist pain. 
History is limited as the patient is a poor historian. The pain 
has been ongoing for approximately 1 week. It is similar to 
arthitic pain she's had in past. Denies any recent trauma 
(though had a fall ___ months ago). L wrist feels swollen 
compared to R wrist. No erythema, warmth. Kept her from sleeping 
at night. Some tenderness with flexion/extension.  Tried tylenol 
and motrin without relief. Per ED report, which sould not be 
confirmed with the patient, she saw her PCP who did not give her 
stronger pain meds. 

Patient also describes vomiting over the past few days, 
non-bloody, possibly bilious. Denies fever chills. Denies 
dysuria, hematuria, bleeding, diarrhea, constipation, chest 
pain, back pain. Endorses shortness of breath at rest. On home 
O2. She lives alone and says she takes care of herself. 

In the ED, initial vital signs were: 97.4 76 154/52 16 99% RA. 
Admission labs were notable for Wbc of 14.4 (PMN-predominant), 
platelets of 467, BUN/Cr of 42/1.2, and grossly positive UA x2. 
Urine culture was sent. CXR revealed low lung volumes with mild 
pulmonary vascular congestion, small bilateral effusions and 
moderate cardiomegaly. She was evaluated by physical therapy and 
found to be unable to stand or ambulate, requirin assistance for 
bed mobility. She was deemed unsafe to return home, given that 
she lives independently, with ___ rehabilitation stay 
advised. Following discussion with case management, her family's 
initial preference was for her to return home with services; 
however, she remained in pain and was unable to tolerate PO 
analgesics, with plan for admission for pain control. She 
received Bactrim DS x1, acetaminophen with codeine 300mg/30mg 
x4, and ondansetron 4mg x1. Vitals signs prior to transfer were 
as follows:  99.0 85 107/45 20 98% Nasal Cannula 

Currently, patient is sleepy and resting in bed. She dry heaves 
sporadically throughout the discussion. Complains of nausea and 
continuing pain in L wrist and R calf.  R lower extremity feels 
weak to her.
 
Past Medical History:
Hypertension
Diet-controlled NIDDM
DJD
Left knee osteonecrosis
Hyperplastic colonic polyps, last ___ years ago; declines repeat
Chronic mild asthma
Benign thyroid nodule
Osteoporosis c/b lumbar compression fracture
Left rotator cuff dislocation/tear in ___
Possible meningioma in ___, stable as of ___
Nocturia
S/p TAH/BSO for menorrhagia at ___ years old
S/p left knee partial medial meniscectomy
Right hip fracture s/p ORIF

 
Social History:
___
Family History:
Father with asthma. 

 
Physical Exam:
On admission:
Vitals-  98.5 125/84 72 18 98% on ___
General- Uncomfortable elderly female. Sleepy and falls asleep 
mid-sentence (its 8pm), states year is ___, correctly 
identifies Obama as president 
HEENT-  MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- distant breath sounds. CTAB no wheezes, rales, rhonchi  
CV- distant heart sonds. RRR, Nl S1, S2, No MRG 
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly, No CVA tenderness  
GU- no foley   
Ext- 1+ pitting edema in both legs below knees, R>L, primarily 
pedal. warm, well perfused, 1+ pulses, no clubbing, cyanosis or 
edema  
L wrist/hand - mildly swollen wrist. ROM limited by pain upon 
wrist dorsi/plantarflexion. MCP and PIP swelling > DIP. 
Stiffness on closing L hand - can't touch fingers to palms (can 
do this in R hand). + radial, ulnar, median nerve. 2+ radial 
pulse. Slight ulnar deviation of fingers.
R calf - + ___ sign (pain on dorsiflexion of R ankle). mild 
tenderness on palpation of calf. 
Neuro- CNs2-12 intact, motor function grossly normal  

At discharge:
Vitals - 97.5, 136/64 (130s-150s/30s-50s), 18, 97% RA
General- uncomfortable elderly female, converses clearly and 
appropriately 
HEENT-  MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- distant breath sounds. CTAB no wheezes, rales, rhonchi  
CV- distant heart sonds. RRR, Nl S1, S2, No MRG 
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly, No CVA tenderness  
GU- no foley   
Ext- 1+ pitting edema in both legs below knees, R>L, primarily 
pedal. warm, well perfused, 1+ pulses, no clubbing, cyanosis or 
edema  
L wrist/hand - mildly swollen wrist, improved since initiation 
of prednisone. tender to palpation along distal ulna laterally 
and volarly. ROM limited by pain upon wrist 
dorsi/plantarflexion. MCP and PIP swelling > DIP. Stiffness on 
closing L hand - can't touch fingers to palms (can do this in R 
hand). + radial, ulnar, median nerve. 2+ radial pulse. Slight 
ulnar deviation of fingers.
R calf - + ___ sign (pain on dorsiflexion of R ankle). mild 
tenderness on palpation of calf. 
Neuro- CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
On admission:
___ 03:20AM BLOOD WBC-14.4*# RBC-3.81*# Hgb-12.0# Hct-38.5# 
MCV-101* MCH-31.6 MCHC-31.2 RDW-13.5 Plt ___
___ 03:20AM BLOOD Neuts-77.7* Lymphs-13.9* Monos-6.7 
Eos-1.4 Baso-0.3
___ 03:20AM BLOOD Plt ___
___ 03:20AM BLOOD Glucose-121* UreaN-42* Creat-1.2* Na-137 
K-4.5 Cl-102 HCO3-23 AnGap-17
___ 03:20AM BLOOD ALT-25 AST-30 AlkPhos-132* TotBili-0.3
___ 06:38AM BLOOD Calcium-8.6 Phos-5.6*# Mg-2.0
___ 10:11PM BLOOD Lactate-1.1

___ 06:00AM URINE Color-Straw Appear-Hazy Sp ___
___ 06:00AM URINE Blood-NEG Nitrite-POS Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-MOD
___ 06:00AM URINE RBC-<1 WBC-23* Bacteri-MANY Yeast-NONE 
Epi-3
___ 12:30PM URINE CastHy-3*
___ 12:30PM URINE Hours-RANDOM Creat-79 Na-87 K-45 Cl-83
___ 12:30PM URINE Osmolal-582

At discharge:
___ 07:10AM BLOOD WBC-15.0* RBC-3.06* Hgb-9.8* Hct-31.2* 
MCV-102* MCH-32.1* MCHC-31.5 RDW-13.2 Plt ___
___ 07:10AM BLOOD Glucose-110* UreaN-33* Creat-1.2* Na-141 
K-5.2* Cl-107 HCO3-28 AnGap-11
___ 07:10AM BLOOD Calcium-9.2 Phos-2.9 Mg-1.7

Microbiology:
Urine culture (___): Mixed flora
Urine culture (___): No growth

Studies:
EKG (___): 
Sinus rhythm with atrial premature beats. Generalized low 
voltage. Left axis deviation. Right bundle-branch block. ST-T 
wave abnormalities. Since the previous tracing of ___ atrial 
premature beats are new. Left axis
deviation and right bundle-branch block are new. Clinical 
correlation is
suggested.
 IntervalsAxes
___
___

CXR PA/lateral (___):
Low lung volumes with mild pulmonary vascular congestion. Small 
bilateral effusions and moderate cardiomegaly. 

EKG (___):
Baseline artifact. Sinus rhythm with atrial premature beats. P-R 
interval
prolongation. Since the previous tracing the sinus rate is 
slower. Premature atrial contractions are more frequent. 
Otherwise, probably no change.
 IntervalsAxes
___
___

Left wrist XR (___):
There are generalized degenerative changes involving the 
interphalangeal joints.  Soft tissue swelling is especially seen 
about the proximal phalanx of the second digit, though no 
definite fracture is appreciated.  Irregularity about the mid 
portion of the fifth metacarpal raises the possibility that this 
was the site of previous healed fracture. Some degenerative 
changes are seen in the first CMC and triscaphe joints. 
Dense calcification or even ossification is seen in the region 
of the 
triangular fibrocartilage. 
  
Right wrist XR (___):
There is some generalized osteopenia of the visualized bony 
elements.  Mild degenerative changes are seen at the first CMC 
and triscaphe articulations.  No definite erosive changes.   
There are areas of opacification lateral to the proximal carpal 
row.  It is unclear whether this represents material on the 
patient or dystrophic 
calcification. 

Bilateral lower extremity venous ultrasound (___): 
1. No evidence of deep vein thrombosis in either leg.  
2. Left ___ cyst. 
  
Renal ultrasound (___):
Normal renal ultrasound.  

Bilateral ankle XR (___):
RIGHT ANKLE:  Soft tissue swelling is present particularly 
adjacent to the
lateral malleolus.  Bones are diffusely demineralized.  No acute 
fracture or dislocation is evident.  Mild degenerative changes 
are noted.
 
LEFT ANKLE:  Mild symmmetrical soft tissue swelling is present.  
Bones are
diffusely demineralized.  There is no acute fracture or 
dislocation.  Mild
degenerative changes are present.
 
Small plantar calcaneal spurs are present bilaterally, right 
greater than
left, and degenerative changes are also seen in the mid foot 
region, right
greater than left.
 
Brief Hospital Course:
Ms. ___ is a ___ with history of noninsulin dependent diabetes 
mellitus, degenerative joint disease, and recurrent urinary 
tract infections who presented with right ankle and left wrist 
pain in the preceding week.

Active Issues:
# Pseudogout : Subacute symmetric oligoarthritis involving 
primarily her wrists and ankles was felt to be most consistent 
with pseudogout by the rheumatology service on the basis of 
clinical appearance and presence of chondrocalcinosis on plain 
films of her hands/wrists and ankles bilaterally, prompting 
initiation of rapid prednisone taper (20mg x3 days ___, 
followed by 10mg x3 days ___, with significant 
improvement. In the setting of right calf and ankle pain, 
bilateral lower extremity venous ultrasound excluded deep venous 
thromboses, but did reveal a left ___ cyst, which may be 
amenable to treatment in the outpatient setting in the event 
that associated symptoms arise.

# Bacteriuria: In the setting of bacteriuria on admission 
without clearly associated urinary symptoms, but prominent 
nausea and vomiting, she was treated empirically with 
piperacillin/tazobactam based on prior urine culture speciation 
and sensitivities. Urine culture ultimately grew out mixed flora 
and returned negative on repeat study, prompting discontinuation 
of empiric antibiotic therapy after an approximately ___cute kidney injury: Creatinine peaked at 1.9 on admission, up 
from uncertain baseline, likely 1 to 1.2, seemingly reflective 
of significant urinary retention (3L) in the setting of chronic 
opioid use in the form of acetaminophen with codeine. Atenolol, 
hydrochlorothiazide, and lisinopril were held on admission. 
Creatinine improved with Foley decompression, and subsequent 
renal ultrasound was negative for frank evidence of obstruction. 
Creatinine had returned to baseline of 1.2 at the time of 
discharge, permitting resumption of atenolol; 
hydrochlorothiazide and lisinopril continued to be held at 
discharge and may be resumed at discharge pending stable renal 
function if blood pressure requires. 

# Hyperkalemia: She was found to have transient hyperkalemia to 
6.3 in the setting of acute kidney injury without associated EKG 
changes, with improvement following insulin and dextrose and 
kayexelate administration. Potassium was 5.2 at discharge, and 
daily checks are advised pending continued stability.

# Nausea and vomiting: She experienced nausea and vomiting in 
the days preceding admission, likely reflecting significant use 
of acetaminophen with codeine for difficult to control arthritic 
pain. Viral gastroenteritis was felt to be less likely in the 
absence of abdominal pain, loose stools, or sick contacts, as 
was cardiac ischemia in the absence of other suggestive symptoms 
or clearly ischemic EKG changes. Symptoms resolved with 
discontinuation of acetaminophen and codeine and treatment with 
ondansetron as needed.

# Hypertension: She remained normotensive off atenolol, 
hydrochlorothiazide, and lisinopril in the setting of acute 
kidney injury as above. Also as above, atenolol was resumed on 
the day of discharge in the setting of blood pressure of 
130s-150s systolic, given return of renal function to baseline; 
in the event that renal function continues to fluctuate, 
atenolol may be discontinued in favor of metoprolol or other 
nonrenally cleared beta blocker. Hydrochlorothiazide and 
lisinopril continued to be held at discharge and may be resumed 
at discharge pending stable renal function if blood pressure 
requires. 

Inactive Issues:
# Hyperlipidemia: Home simvastatin was continued. 

# Noninsulin dependent diabetes mellitus: She is diet controlled 
at home and received a Humalog insulin sliding scale in house.

# Asthma: Albuterol nebulizers were administered as needed.
 
Transitional Issues:
* Continue prednisone taper 10mg daily x3 days ___. In 
the event that wrist and ankle pain or swelling worsen, 
rheumatologist Dr. ___ (___) may 
be contacted for assistance with more prolonged taper.
* Treatment of ___ cyst may be pursued in the outpatient 
setting in the event that associated symptoms arise.
* Avoidance of codeine is advised in the outpatient setting if 
possible, given seeming association with nausea, vomiting, and 
urinary retention.
* Atenolol was resumed on the day of discharge in the setting of 
blood pressure of 130s-150s systolic, given return of renal 
function to baseline; in the event that renal function continues 
to fluctuate, atenolol may be discontinued in favor of 
metoprolol or other nonrenally cleared beta blocker. 
Hydrochlorothiazide and lisinopril continued to be held at 
discharge and may be resumed at discharge pending stable renal 
function if blood pressure requires. 
* Daily evaluation of potassium and creatinine is suggested 
pending stable values, after which point they may be checked 
less frequently.
* Pending studies: None.
* Code status: Full.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen w/Codeine 1 TAB PO BID:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/wheeze 
3. Atenolol 25 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Simvastatin 20 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral Daily 
9. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Multivitamins W/minerals 1 TAB PO DAILY 
3. Simvastatin 20 mg PO DAILY 
4. Acetaminophen 500 mg PO Q8H:PRN pain 
5. Docusate Sodium 100 mg PO BID 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Senna 8.6 mg PO BID 
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/wheeze 
9. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral Daily 
10. Atenolol 25 mg PO DAILY 
11. PredniSONE 10 mg PO DAILY Duration: 3 Days 
Continue ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary: 
Pseudogout
Bacteriuria
Acute kidney injury likely secondary to opioid induced urinary 
retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking part in your care at ___ 
___. As you know, you presented with joint 
pain and were found to have evidence of possible urinary tract 
infection. You were treated initially with antibiotics until it 
was found that your initial urine sample was likely 
contaminated, and antibiotics were stopped. 

Your joint pain was believed to be related to a form of 
arthritis called pseudogout, and you were treated with steroids 
(prednisone), with improvement in pain and swelling. It is 
important that you follow up with your new rheumatologist for 
further care at the time below. 

Finally, your bladder was found to contain a significant amount 
of urine, causing transient injury to your kidneys, possibly due 
to heavy use of acetaminophen with codeine, which can cause 
urinary retention. Urinary retention and kidney injury 
improvement after acetaminophen with codeine was stopped, and a 
Foley catheter was placed to drain urine. It is important that 
you avoid use of acetaminophen with codeine in the future. Your 
rheumatologist may be able to help you choose an alternative 
medication that will help to ease your joint pain with less risk 
of harm to your kidneys.

We wish you the best in your recovery!
 
Followup Instructions:
___